US06642224B1
Ethyl 4-[(3-cyanophenylamino)methyl]-3-nitrobenzoate (5.79 g) was dissolved in 50 ml of ethanol, then 50 ml of purified water, 0.96 g of ammonium chloride and 4.97 g of iron powder were added and the mixture was refluxed under heating for 40 minutes. The reaction solution was filtered through Celite and concentrated in vacuo. Ethyl acetate was added to the resulting residue. The mixture was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, concentrated in vacuo and dried to give 5.71 g of ethyl 3-amino-4-[(3-cyanophenylamino)methyl]benzoate.

reactant | Ethyl 4-[(3-cyanophenylamino)methyl]-3-nitrobenzoate | 5.79 g | C(#N)C=1C=C(C=CC1)NCC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C17H15N3O4
reactant | water | 50 ml | O | H2O
reactant | ammonium chloride | 0.96 g | [Cl-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 4.97 g | [Fe] | Fe
product | ethyl 3-amino-4-[(3-cyanophenylamino)methyl]benzoate | 5.71 g | NC=1C=C(C(=O)OCC)C=CC1CNC1=CC(=CC=C1)C#N | C17H17N3O2
